US04760087
(a) Undeca-2,10-diyn-1-ol
To a solution of 13.42 g of deca-1,9-diyne in 300 ml of absolute tetrahydrofuran were added dropwise over one hour while stirring at -40° C. in an atmosphere of dry nitrogen, 59.4 ml of n-butyllithium solution. After stirring for another hour, during which time the mixture was allowed to warm to 0° C., 6.0 g of paraformaldehyde were added and then the mixture was heated to boil under reflux (TLC: petroleum ether/ether--3:2). When the reaction was finished, a saturated solution of ammonium chloride was added at room temperature. The mixture was extracted several times with ether, the combined extracts were dried over sodium sulfate and then evaporated under vacuum. The oily residue was purified by column chromatography with petroleum ether/ether (3:2) to give 8.27 g of the title compound in the form of a liquid which slowly solidified on storing in a refrigerator.

reactant | deca-1,9-diyne | 13.42 g | C#CCCCCCCC#C | C10H14
reactant | n-butyllithium | 59.4 ml | C(CCC)[Li]
reactant | paraformaldehyde | 6.0 g | C=O | CH2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | Undeca-2,10-diyn-1-ol | 8.27 g | C(C#CCCCCCCC#C)O | C11H16O
